US06201027B1
4-Chloro-3-aminobenzoic acid methyl ester (7.0 g) was suspended in a mixture of hydrochloric acid (1 M, 85 mL) and water (170 mL). A solution of sodium nitrite (2.59 g) in water (40 mL) was slowly added to the suspension at 0-5° C. temperature. After 40 min stirring at 0-5° C. solid urea (3.8 g) was added and dissolved by stirring. After 5 min a cold solution containing sodium acetate (12.7 g) and mercaptoacetic acid (13.0 mL) in water (85 mL) was added. Ethyl acetate (300 mL) was added and the solution was then refluxed for 60 min. The mixture was cooled and ethyl acetate (100 ml) and hydrochloric acid (6 M, 50 mL) were added. The organic phase was separated and the product extracted from it to potassium bicarbonate solution (1 M, 200 mL). The solution was acidified with 6 M hydrochloric acid and then extracted with ethyl acetate (200 mL). The ethyl acetate extract was dried with sodium sulphate and evaporated to dryness to give impure 4-chloro-3-[(carboxymethyl)thio]benzoic acid methyl ester (15.5 g). This intermediate was mixed with potassium bicarbonate solution (1 M, 160 mL) and then potassium permanganate solution (0.33 M in 0.42 M acetic acid, 750 mL) was slowly added at 20-30° C. (until the color of the permanganate was permanent). After 2 h stirring at 20-30° C., the residual permanganate was decolorized with saturated sodium pyrosulfite solution. The mixture was filtrated and the filtrate was acidified with hydrochloric acid (6 M) and the product was extracted with ethyl acetate. The extract was dried with sodium sulphate and evaporated to dryness (yield 3.5 g) 1H-NMR (400 MHz, DMSO-d6) d=3.93 (s, 3H), 4.70 (s, 2H), 7.93 (d, J=11.1 Hz,1 H), 8.26 (dd, J=11.1 Hz, 2.8 Hz, 1H), 8.51 (d, J=2.8 Hz, 1H), 12.5 (b, 1H).

reactant | 4-Chloro-3-aminobenzoic acid methyl ester | 7.0 g | COC(C1=CC(=C(C=C1)Cl)N)=O | C8H8ClNO2
reactant | sodium nitrite | 2.59 g | N(=O)[O-].[Na+]
reactant | urea | 3.8 g | NC(=O)N | CH4N2O
reactant | sodium acetate | 12.7 g | C(C)(=O)[O-].[Na+]
reactant | mercaptoacetic acid | 13.0 mL | SCC(=O)O | C2H4O2S
solvent | hydrochloric acid | 1 M, 85 mL | Cl | ClH
solvent | water | 170 mL | O | H2O
solvent | water | 40 mL | O | H2O
solvent | water | 85 mL | O | H2O
solvent | hydrochloric acid | 6 M, 50 mL | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-3-[(carboxymethyl)thio]benzoic acid methyl ester | 15.5 g | COC(C1=CC(=C(C=C1)Cl)SCC(=O)O)=O | C10H9ClO4S
